US08227506B2
Step 1. Synthesis of 6-[imino(pyrrolidin-1-yl)methyl]nicotinic acid dihydrochloride.
6-Cyanonicotinic acid (4.15 g, 28.0 mmol) was dissolved in anhydrous ethanol (3.2 ml) and 4N hydrochloric acid/1,4-dioxane (30 ml), and the mixture was stirred in a closed system at room temperature for two nights. The solvent was evaporated under reduced pressure, and the obtained residue was suspended in anhydrous ethanol (90 ml). Pyrrolidine (2.34 ml, 28.0 mmol) was added thereto, and the mixture was stirred at room temperature for 3 days. Pyrrolidine (3.51 ml, 42.0 mmol) was added again, and the mixture was stirred for 2.5 hours. The solvent was evaporated under reduced pressure, and water aid ethanol were added to the obtained residue. The precipitate was removed by filtration, ethanol was evaporated under reduced pressure, and the obtained aqueous solution was lyophilized to give the title compound without purification operation.

reactant | 6-Cyanonicotinic acid | 28.0 mmol, 4.15 g | C(#N)C1=NC=C(C(=O)O)C=C1 | C7H4N2O2
reactant | Pyrrolidine | 28.0 mmol, 2.34 ml | N1CCCC1 | C4H9N
reactant | Pyrrolidine | 42.0 mmol, 3.51 ml | N1CCCC1 | C4H9N
reactant | hydrochloric acid 1,4-dioxane | 4N, 30 ml | Cl.O1CCOCC1
solvent | ethanol | 3.2 ml | C(C)O | C2H6O
product | 6-[imino(pyrrolidin-1-yl)methyl]nicotinic acid dihydrochloride | Cl.Cl.N=C(C1=NC=C(C(=O)O)C=C1)N1CCCC1 | InChI=1S/C11H13N3O2.2ClH/c12-10(14-5-1-2-6-14)9-4-3-8(7-13-9)11(15)16;;/h3-4,7,12H,1-2,5-6H2,(H,15,16);2*1H
